US06548495B2
(5-Chloro-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic Acid tert-Butyl Ester
The title compound was prepared from (2-amino-5-chloro-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J14) (311 mg, 1.0 mmol) and 3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K4) (301 mg, 1.0 mmol) according to the general procedure M. Obtained as an off-white solid (210 mg, 39%).

reactant | (2-amino-5-chloro-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 1.0 mmol, 311 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)Cl)C(F)(F)F)N)=O | C12H14ClF3N2O2
reactant | 3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 1.0 mmol, 301 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O | C17H19NO4
product | (5-Chloro-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic Acid tert-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)Cl)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O)=O | C25H23ClF3N3O5
